US04921855
To a mixture of N-t-butoxycarbonyl-N-methyl-β-methyl-β-alanine (1.02 g) and morpholine (0.48 g) in dry methylene chloride was added N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.05 g), and the mixture was stirred at ambient temperature overnight. After evaporation of the solvent, the residue was dissolved in ethyl acetate. The solution was washed with 1% citric acid aqueous solution, saturated sodium bicarbonate solution, and saturated sodium chloride solution. Then the solution was dried over magnesium sulfate and concentrated under reduced pressure to give 4-(N-t-butoxycarbonyl-N-methyl-β-alanyl)morpholine (1.36 g).

reactant | N-t-butoxycarbonyl-N-methyl-β-methyl-β-alanine | 1.02 g | C(C)(C)(C)OC(=O)N(C(CC(=O)O)C)C | C10H19NO4
reactant | morpholine | 0.48 g | N1CCOCC1 | C4H9NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.05 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(N-t-butoxycarbonyl-N-methyl-β-alanyl)morpholine | 1.36 g | C(C)(C)(C)OC(=O)N(CCC(=O)N1CCOCC1)C | C13H24N2O4
